US05405851
A solution of 7'-ethynyl-3',4'-dihydrospiro[1,3-dioxolane-2,2'(1'H)-naphthalene] (0.85 g, 3.9 mmol) in THF (15 ml) and 1N HCl (5 ml) was stirred overnight at room temperature. Concentrated HCl (2×0.5 ml) was then added in two aliquots 2 hours apart. After stirring a further 2 hours the solution was diluted with diethyl ether, the aqueous phase was separated, and the solution dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography on silica gel (15 g) eluting with diethyl ether:hexane (1:9→1:4) to give 7-ethynyl-2-tetralone as a solid (0.31 g). 1H NMR (CDCl3, 200 MHz) δ: 2.54 (t, J=7 Hz, 2H, CH2), 3.05 (s, 1H, ethynyl H), 3.06 (t, J=7 Hz, 2H, CH2), 3.56 (s, 2H, CH2), 7.18 (d, J=8 Hz, 1H, Ar), 7.26 (s, 1H, Ar), 7.34 (d, J=8 Hz, 1H, Ar).

reactant | 7'-ethynyl-3',4'-dihydrospiro[1,3-dioxolane-2,2'(1'H)-naphthalene] | 3.9 mmol, 0.85 g | C(#C)C1=CC=C2CCC3(CC2=C1)OCCO3 | C14H14O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | HCl | 1N, 5 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | HCl | 0.5 ml | Cl | ClH
product | 7-ethynyl-2-tetralone | 0.31 g | C(#C)C1=CC=C2CCC(CC2=C1)=O | C12H10O
